US05994378
A solution of 2-(4-tert-butylthiazol-2-yl)benzofuran-5-carboxylic acid (5.0 g) and thionyl chloride (12.1 ml) in tetrahydrofuran (50 ml) was stirred at 50° C. for 2 hours. After the solution was cooled to room temperature, the resulting precipitates were collected by filtration and washed with diisopropyl ether to give 2-(4-tert-butylthiazol-2-yl)benzofuran-5-carbonyl chloride hydrochloride (5.57 g).

reactant | 2-(4-tert-butylthiazol-2-yl)benzofuran-5-carboxylic acid | 5.0 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C(=O)O | C16H15NO3S
reactant | thionyl chloride | 12.1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(4-tert-butylthiazol-2-yl)benzofuran-5-carbonyl chloride hydrochloride | 5.57 g | Cl.C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C(=O)Cl | InChI=1S/C16H14ClNO2S.ClH/c1-16(2,3)13-8-21-15(18-13)12-7-10-6-9(14(17)19)4-5-11(10)20-12;/h4-8H,1-3H3;1H
